US07867629B2
Dissolving 10 g (50 mmol) of 3′-bromoacetophenone into 20 milliliter of acetic acid and adding 7.0 g (44 mmol) of bromine at the temperature of about 5 to 10° C., stirred at the temperature of about 5 to 10° C. for 4 hours until the color of bromine disappeared. After completion of the reaction, adding water and an extraction was carried out using dichloro-methane. Further, washing with water, dried with the use of sodium sulfate. The solvent was removed by distillation and the resultant crude 2,3′-dibromo acetophenone was dissolved into 30 milliliter of ethanol, adding 5.0 g (53 mmol) of 2-aminopyridine and 7.0 g of sodium hydrogen carbonate, the resultant suspension was refluxed under heating for 8 hours. After completion of the reaction, separation with filtration was carried out and resultant crystals were washed with water and methanol, thereby obtaining 3.5 g of 2-(3-bromo-phenyl)-imidazo [1,2-a] pyridine (yield: 26%).

reactant | 3′-bromoacetophenone | 50 mmol, 10 g | BrC=1C=C(C=CC1)C(C)=O | C8H7BrO
reactant | bromine | 44 mmol, 7.0 g | BrBr | Br2
reactant | 2-aminopyridine | 53 mmol, 5.0 g | NC1=NC=CC=C1 | C5H6N2
reactant | sodium hydrogen carbonate | 7.0 g | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
solvent | acetic acid | 20 milliliter | C(C)(=O)O | C2H4O2
product | 2-(3-bromo-phenyl)-imidazo [1,2-a] pyridine | 3.5 g, yield: 26% | BrC=1C=C(C=CC1)C=1N=C2N(C=CC=C2)C1 | C13H9BrN2
